### PR TITLE
[Merged by Bors] - feat: Boundaryless manifold

### PR DESCRIPTION
**Pull request by winstonyin**
This is a more general notion of boundaryless manifold than `ModelWithCorners.Boundaryless`, which requires the `ModelWithCorners` to map to the whole model vector space.

To justify this new type class, consider the interior of a manifold with non-empty boundary. It inherits a manifold structure via its embedding, and it would be convenient to use the same `ModelWithCorners` for the interior as for the whole space. Even though the interior is boundaryless, its inherited `ModelWithCorners` doesn't satisfy `ModelWithCorners.Boundaryless`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/InteriorBoundary.lean [hunk 1]
```diff
@@ -103,25 +103,43 @@ lemma _root_.range_mem_nhds_isInteriorPoint {x : M} (h : I.IsInteriorPoint x) :
...
-lemma isInteriorPoint {x : M} : I.IsInteriorPoint x := by
-  let r := ((chartAt H x).isOpen_extend_target I).interior_eq
-  have : extChartAt I x = (chartAt H x).extend I := rfl
-  rw [← this] at r
-  rw [ModelWithCorners.isInteriorPoint_iff, r]
-  exact PartialEquiv.map_source _ (mem_extChartAt_source _ _)
+/-- Boundaryless `ModelWithCorners` implies boundaryless manifold. -/
+instance : BoundarylessManifold I M where
+  isInteriorPoint' := by
+    intro x
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/InteriorBoundary.lean:120]: I think this (untested) should work:
```suggestion
  isInteriorPoint' x := by
```

**Review by ocfnash — APPROVED** [review]
Thanks!

One nitpick.

bors d+
